US05990142
16E N-(3-Acetyl-2-hydroxyphenyl)-6-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxamide
Following the process described in example 1 (point K), starting from 6-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxylic acid and 3-amino-2-hydroxyacetophenone, the title compound was prepared, which was purified by chromatography through a silica gel column, eluting with hexane:ethyl acetate, 1:1 (42% yield).

reactant | 6-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxylic acid | ClC1=CC2=C(CC(O2)CCCC2=CC=CC=C2)C=C1C(=O)O | C18H17ClO3
reactant | 3-amino-2-hydroxyacetophenone | CC(=O)C1=C(C(=CC=C1)N)O | C8H9NO2
product | N-(3-Acetyl-2-hydroxyphenyl)-6-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxamide | 42% yield | C(C)(=O)C=1C(=C(C=CC1)NC(=O)C=1C(=CC2=C(CC(O2)CCCC2=CC=CC=C2)C1)Cl)O | C26H24ClNO4
